US05244908
Synthesis of 5-[3-(acetyloxy)propylthio]imidazo[1,2-a]pyridine (Compound 174)
To a solution of 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine (2.00 g, 9.60 mmoles) and triethylamine (1.60 ml, 11.5 mmoles) in methylene chloride (50 ml) was added acetic anhydride (1.10 ml, 11.6 mmoles) with stirring at room temperature and the mixture was further stirred at room temperature for 7.5 hours. The reaction mixture was washed with an aqueous 1N sodium hydroxide solution and dried. After the solvent was distilled off, the residue was purified by column chromatography [eluent: hexane/acetone (1:1)] to obtain 2.40 g of the desired product (100%, brown oily product).

reactant | 5-[3-(hydroxy)propylthio]imidazo[1,2-a]pyridine | 9.60 mmoles, 2.00 g | OCCCSC1=CC=CC=2N1C=CN2 | C10H12N2OS
reactant | triethylamine | 11.5 mmoles, 1.60 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 11.6 mmoles, 1.10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-[3-(acetyloxy)propylthio]imidazo[1,2-a]pyridine | 2.40 g, 100% | C(C)(=O)OCCCSC1=CC=CC=2N1C=CN2 | C12H14N2O2S
